data/specific_train_final.csv
"[H:20][O:21][O].CC(C(C=O)O[O:10])O>>[H:20][O:10]OC(C=O)C(C)O.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21]C1=C(C=CC=C1)C(C)C.[OH:10]>>[H:20][OH:10].CC(C)C1=C(C=CC=C1)[O:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:1][C:2]1([CH:4]2[CH2:5][CH:6]1[C:7]([CH:15]([CH2:20]2)[O:16][N+:17](=[O:19])[O-:18])([CH3:8])[O:9][O:10][O:11][N+:12](=[O:14])[O-:13])[CH3:3]>>[CH3:1][C:2]1([CH:4]2[CH2:5][CH:6]1[C:7]([CH:15]([CH2:20]2)[O:16][N+:17](=[O:19])[O-:18])([CH3:8])[O:9][O:10][O:11])[CH3:3].[N+:12](=[O:14])[O-:13] 11,12-11; 11,12-12",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CC(=O)C(C(C)(C)O)O[O:10]>>[H:20][O:10]OC(C(=O)C)C(C)(C)O.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(CO[N+](=O)[O-])[O:20][O:21]N=O>>CC(CO[N+](=O)[O-])[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21]/C=C(/C)\C(COO)O[O:10]>>[H:20][O:10]OC(COO)/C(=C\[O:21])/C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C(OC=O)O[O:20].[N:10]=O>>C(OC=O)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCCC([CH2:10])O[N+](=O)[O-].[O:20][O]>>CCCCC([CH2:10][O:20][O])O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:1][C:2]([H:5])([O:3])[Cl:4].[N+:7](=[O:8])[O-:6]>>[H:1][C:2](=[O:3])[H:5].[N+:7](=[O:8])[O-:6].[Cl:4] 3-2,3; 2,4-2,3; 2,4-4",Room Temperature,Propagation,retroaddition
"CCC(C)(C)O[O:20].[N:10]=O>>CCC(C)(C)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C(COCO[O:20])O.[N:10]=O>>C(COCO[O:20][N:10]=O)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:6][C:3]([CH2:4][Cl:5])([C:2](=[CH2:1])[CH3:9])[O:7][O:8]>>[H:6][C:3]([CH2:4][Cl:5])[C:2](=[CH2:1])[CH3:9].[O:7][O:8] 7,3-7; 7,3-3",Room Temperature,Initiation,homolyze
"CC(C(C)(C)O[O:20])O[N+](=O)[O-].[N+](=O)([O-])[O:10]>>CC(C(C)(C)O[O:20][O:10][N+](=O)[O-])O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][C:21](C)(C)C1=CC=CC=C1.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].C[C:21](C)C1=CC=CC=C1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C)(CO[N+](=O)[O-])[O:20][O:21]N=O>>CC(C)(CO[N+](=O)[O-])[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CC(C)OC(C)(C)O[O:10]>>[H:20][O:10]OC(C)(C)OC(C)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][O:21][O].CC1(C2CCC(C1C2)(CO[O:10])O)C>>[H:20][O:10]OCC1(CCC2CC1C2(C)C)O.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][CH2:21]C(C)(C)C.[OH:10]>>[H:20][OH:10].CC(C)(C)[CH2:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"COC(=O)C[O:20].[N+:10](=O)[O-]>>COC(=O)C[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(CC[O:20][O:21]N=O)O>>CCC(CC[O:20])O.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21]C1=C(C=CC=C1)C(C)C.[N+](=O)([O-])[O:10]>>[H:20][O:10][N+](=O)[O-].CC(C)C1=C(C=CC=C1)[O:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:11][O:10][O:9][O:8].[CH3:6][CH2:5][CH2:4][CH2:3][C:2](=[O:7])[O:1]>>[H:11][O:10].[CH3:6][CH2:5][CH2:4][CH2:3][C:2](=[O:7])[O:1].[O:8][O:9] 9,10-10; 9,10-9",Room Temperature,Initiation,homolyze
"CC(C)C1(C=C[CH:21]=[CH:20]C1O)O[O:10]>>CC(C)C12C=C[CH:21][CH:20](C1O)[O:10]O2 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC1(C2CCC(C1C2)(CO[N+](=O)[O-])[O:20][O:21][O])C.[N+](=O)[O-]>>CC1(C2CCC(C1C2)(CO[N+](=O)[O-])[O:20])C.[N+](=O)[O-].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)C(C)(C)[O:20][O:21]N=O>>CC(C)C(C)(C)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(COCO[O:20])O.O[O:10]>>CC(COCO[O:20][O:10]O)O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCCC(CC)[O:20][O:21]N=O>>CCCC(CC)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC(C)CO[O:20].[N:10]=O>>CCC(C)CO[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H][O:12][O:11][CH2:10]>>[H][O:12].[O:11]=[CH2:10] 10-10,11;11,12-10,11;11,12-12",Room Temperature,Propagation,retroaddition
"CC(CO)([CH:20]([CH2:21]O)[O:10])O[N+](=O)[O-]>>CC(CO)([CH:20]=[O:10])O[N+](=O)[O-].[CH2:21]O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,retroaddition
"C([CH:10]Cl)O[N+](=O)[O-].[O:20][O]>>C([CH:10]([O:20][O])Cl)O[N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1(C2CCC(C1C2)(CO[O:20])O[N+](=O)[O-])C.[N:10]=O>>CC1(C2CCC(C1C2)(CO[O:20][N:10]=O)O[N+](=O)[O-])C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"c1ccccc1C(CO[N+]([O-])=O)O[O:10].[H:20][O:21][O]>>c1ccccc1C(CO[N+]([O-])=O)O[O:10][H:20].[O:21][O] 10-10,20; 20,21-10,20; 20,21-21",Room Temperature,Propagation,abstraction
